US06100272
1-Acetyl-1,2,3,4-tetrahydro-6-trifluoromethanesulphonyloxyquinoline
To a stirred solution of 1-acetyl-6-hydroxy-1,2,3,4-tetrahydroquinoline (2.36 g, 0.012 mol) and pyridine (2.0 ml, 0.025 mol) in THF (80 ml) under argon was added triflic anhydride (2.0 ml, 0.014 mol). The reaction mixture was stirred at room temperature for 3 days and after additional amounts of triflic anhydride (6 ml, 0.041 mol) and pyridine (6 ml, 0.074 mol) had been added, was concentrated in vacuo. The resultant brown gum was treated with 10% aqueous Na2CO3 solution and extracted with dichloromethane. The extract was dried (Na2SO4) and concentrated in vacuo. The crude product was purified by chromatography on silica gel, eluting with ethyl acetate to afford the title compound as an orange oil (430 mg, 11%).

reactant | 1-acetyl-6-hydroxy-1,2,3,4-tetrahydroquinoline | 0.012 mol, 2.36 g | C(C)(=O)N1CCCC2=CC(=CC=C12)O | C11H13NO2
reactant | pyridine | 0.025 mol, 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 0.014 mol, 2.0 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 0.041 mol, 6 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 0.074 mol, 6 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-Acetyl-1,2,3,4-tetrahydro-6-trifluoromethanesulphonyloxyquinoline | 430 mg, 11% | C(C)(=O)N1CCCC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C12H12F3NO4S
